US07129242B2
(4-{[4-(4-Chlorophenyl)-pyrimidin-2-yl]amino}phenyl)-N,N-dimethyl carboxamide
To 4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}benzoic acid (200 mg, 0.615 mmol) is added thionyl chloride (4 mL) along with a catalytic amount of DMF at room temperature. The resulting suspension is then refluxed for a period of 1 hour resulting in a clear pale yellow solution which was concentrated in vacuo. To the flask was then added a solution of dimethylamine (615 μL of a 2.0 M solution in THF, 1.23 mmol) and triethylamine (124 mg, 1.23 mmol) in tetrahydrofuran (4.5 mL). The solution was then stirred for 18 hours at room temperature, diluted with water (5 mL) and filtered. Purification of the remaining solid by preparative HPLC yielded the title compound. HPLC/ES-MS: RT 6.74 min.(Method A); (m/z) 353 [M+1]+.

reactant | 4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}benzoic acid | 0.615 mmol, 200 mg | ClC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C17H12ClN3O2
reactant | thionyl chloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine | CNC | C2H7N
reactant | triethylamine | 1.23 mmol, 124 mg | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-{[4-(4-Chlorophenyl)-pyrimidin-2-yl]amino}phenyl)-N,N-dimethyl carboxamide | ClC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)C(=O)N(C)C | C19H17ClN4O
